US09120749B2
tert-butyl 4-((trans-4-((3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate
Following general procedure M, tert-butyl 4-((trans-4-((3-acetyl-6-bromoquinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate (55 mg, 0.10 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (41 mg, 0.15 mmol) to afford the desired product (66 mg, >99%) as an off-white solid. ESI MS m/z 611 [C33H40ClFN4O4+H]+

reactant | tert-butyl 4-((trans-4-((3-acetyl-6-bromoquinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate | 0.10 mmol, 55 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CCN(CC1)C(=O)OC(C)(C)C)Br | C27H37BrN4O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 41 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-butyl 4-((trans-4-((3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate | 66 mg, >99% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)O)Cl | C33H40ClFN4O4
